US07671072B2
Cyclopropylmethyl-carbamic acid 3-[5-(2-methyl-2-pyridin-2-yl-propionylamino)-2H-pyrazol-3-yl]-cyclobutyl ester
A mixture of 5-(3-cyclopropylmethylcarbamoyloxy-cyclobutyl)-3-(2-methyl-2-pyridin-2-yl-propionylamino)-pyrazole-1-carboxylic acid tert-butyl ester and 3-(3-cyclopropylmethylcarbamoyloxy-cyclobutyl)-5-(2-methyl-2-pyridin-2-yl-propionylamino)-pyrazole-1-carboxylic acid tert-butyl ester (120 mg, prepared by procedures analogous to those described in Example 221, Steps A to E, using appropriate starting materials) was dissolved in TFA (0.19 mL) and CH2Cl2 (1.25 mL) at room temperature. After 4 h, the solution was diluted with EtOAc and the solution was washed sequentially with saturated aqueous NaHCO3 solution (2×), water, and saturated aqueous NaCl solution. The organic layer was dried over Na2SO4 and concentrated. Purification of the residue by silica gel chromatography afforded the title compound as a solid. MS (M+H)+=398.3.

reactant | 5-(3-cyclopropylmethylcarbamoyloxy-cyclobutyl)-3-(2-methyl-2-pyridin-2-yl-propionylamino)-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C=C1C1CC(C1)OC(NCC1CC1)=O)NC(C(C)(C1=NC=CC=C1)C)=O | C26H35N5O5
reactant | 3-(3-cyclopropylmethylcarbamoyloxy-cyclobutyl)-5-(2-methyl-2-pyridin-2-yl-propionylamino)-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C=C1NC(C(C)(C1=NC=CC=C1)C)=O)C1CC(C1)OC(NCC1CC1)=O | C26H35N5O5
reactant | CH2Cl2 | 1.25 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 0.19 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Cyclopropylmethyl-carbamic acid 3-[5-(2-methyl-2-pyridin-2-yl-propionylamino)-2H-pyrazol-3-yl]-cyclobutyl ester | CC(C(=O)NC=1C=C(NN1)C1CC(C1)OC(NCC1CC1)=O)(C)C1=NC=CC=C1 | C21H27N5O3
